US08030504B2
7-Methoxy-2H-chromene-3-carbonitrile
2-Hydroxy-4-methoxybenzaldehyde (Aldrich, 5.0 g, 32.9 mmol), acrylonitrile (11 mL, 164 mmol), and 1,4-diazabicyclo[2.2.2]octane (0.92 g, 8.2 mmol) were heated in a microwave Personal Chemistry at 95° C. for 5 hours. Sodium hydroxide (200 mL) was added and the mixture was extracted with ethyl acetate (200 mL) and brine. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. Chromatography on silica gel eluting with 0-to-50% ethyl acetate in hexane afforded the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.77 (s, 3H), 4.84 (d, J=1.36 Hz, 2H), 6.50 (d, J=2.71 Hz, 1H), 6.61 (dd, J=8.48, 2.71 Hz, 1H), 7.21 (d, J=8.48 Hz, 1H), 7.52 (s, 1H). MS (DCI) m/z 205.07 (M+NH4)+.

reactant | 2-Hydroxy-4-methoxybenzaldehyde | 32.9 mmol, 5.0 g | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | acrylonitrile | 164 mmol, 11 mL | C(C=C)#N | C3H3N
reactant | 1,4-diazabicyclo[2.2.2]octane | 8.2 mmol, 0.92 g | N12CCN(CC1)CC2 | C6H12N2
solvent | Sodium hydroxide | 200 mL | [OH-].[Na+]
product | 7-Methoxy-2H-chromene-3-carbonitrile | COC1=CC=C2C=C(COC2=C1)C#N | C11H9NO2
